US07834021B2
2-(8-Chloro-1,4-dioxaspiro[4.5]dec-8-yl)-5-(pyrrolidin-1-ylcarbonyl)-1,3-thiazole.
To a mixture of 8-[5-(pyrrolidin-1-ylcarbonyl)-1,3-thiazol-2-yl]-1,4-dioxaspiro[4.5]decan-8-ol (0.2 g, 3.32 mmol) in pyridine (3 mL) at 0° C. was added thionyl chloride (0.5 mL, 6.86 mmol) under N2. The mixture was warmed to room temperature and stirred overnight. After the reaction solution was concentrated, water and EtOAc were added. The aqueous layer was extracted with EtOAc (2×). The combined organic layers were washed with saturated NaCl, dried (MgSO4), concentrated and flash chromatographed (50% EtOAc/hexane to EtOAc) to give 0.10 g of the title compound in 53% yield. MS (EI) calcd: (M+1)+=356.1; found: 357.0.

reactant | 8-[5-(pyrrolidin-1-ylcarbonyl)-1,3-thiazol-2-yl]-1,4-dioxaspiro[4.5]decan-8-ol | 3.32 mmol, 0.2 g | N1(CCCC1)C(=O)C1=CN=C(S1)C1(CCC2(OCCO2)CC1)O | C16H22N2O4S
reactant | thionyl chloride | 6.86 mmol, 0.5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 2-(8-Chloro-1,4-dioxaspiro[4.5]dec-8-yl)-5-(pyrrolidin-1-ylcarbonyl)-1,3-thiazole | 0.10 g, 53% yield | ClC1(CCC2(OCCO2)CC1)C=1SC(=CN1)C(=O)N1CCCC1 | C16H21ClN2O3S
